US07915281B2
The methods described in Part I of Example 35 were used to treat 2-(ethoxymethyl)-1-[(5-phenylisoxazol-3-yl)methyl]-1H-imidazo[4,5-c]quinoline (0.650 g, 1.69 mmol) with mCPBA (0.455 g of 77% pure material, 2.0 mmol) followed by p-toluenesulfonyl chloride (0.355 g, 1.86 mmol) and concentrated ammonium hydroxide (15 mL) and purify the final product to provide 0.38 g of 2-(ethoxymethyl)-1-[(5-phenylisoxazol-3-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine as a tan crystalline solid, mp 221-223° C.

reactant | 2-(ethoxymethyl)-1-[(5-phenylisoxazol-3-yl)methyl]-1H-imidazo[4,5-c]quinoline | 1.69 mmol, 0.650 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1=NOC(=C1)C1=CC=CC=C1 | C23H20N4O2
reactant | mCPBA | 2.0 mmol, 0.455 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | p-toluenesulfonyl chloride | 1.86 mmol, 0.355 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium hydroxide | 15 mL | [OH-].[NH4+]
product | 2-(ethoxymethyl)-1-[(5-phenylisoxazol-3-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.38 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=NOC(=C1)C1=CC=CC=C1 | C23H21N5O2
